### PR TITLE
feat: Def of general metric tensor and unit tensor

### PR DESCRIPTION
**Pull request by jstoobysmith**

### CODE REVIEW

File: HepLean/Tensors/Tree/Metrics.lean [hunk 1]
```diff
@@ -0,0 +1,272 @@
...
+  simp
+
+lemma unitTensor_eq_dual_perm_eq (c : S.C) : ∀ (x : Fin (Nat.succ 0).succ),
+   ![S.τ c, c] x = (![S.τ (S.τ c), S.τ c] ∘ ⇑(finMapToEquiv ![1, 0] ![1, 0]).symm) x := fun x => by
+  fin_cases x
+  · rfl
+  · exact (S.τ_involution c).symm
+
+/-- The unit tensor is equal to a permutation of indices of the dual tensor. -/
+lemma unitTensor_eq_dual_perm (c : S.C) : {S.unitTensor c | μ ν}ᵀ.tensor =
```
Comment (jstoobysmith) [inline HepLean/Tensors/Tree/Metrics.lean]: This file needs to be separated.
